US05807886
To a stirred solution of 2-(5-nitroindanyl)-N-(phenylmethyl)trifluoroacetamide (1.17 g, 3.21 mmol) in THF/MeOH (100 ml, 1:1) was added a catalytic amount of 10% Pd/C. The mixture was hydrogenated at 50 psi for 1 hr, filtered through celite, and concentrated to give 2-(5-aminoindanyl)-N-(phenylmethyl)trifluoroacetamide which was homogeneous by TLC and used immediately in step (f).

reactant | 2-(5-nitroindanyl)-N-(phenylmethyl)trifluoroacetamide | 3.21 mmol, 1.17 g | [N+](=O)([O-])C=1C=C2CCC(C2=CC1)C(C(=O)N(CC1=CC=CC=C1)F)(F)F | C18H15F3N2O3
solvent | THF MeOH | 100 ml | C1CCOC1.CO
catalyst | Pd/C | [Pd] | Pd
product | 2-(5-aminoindanyl)-N-(phenylmethyl)trifluoroacetamide | NC=1C=C2CCC(C2=CC1)C(C(=O)N(CC1=CC=CC=C1)F)(F)F | C18H17F3N2O
